US07576215B2
(5Z)-5-{4-[({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]BENZYLIDENE}-1,3-THIAZOLIDINE-2,4-DIONE
The title compound was prepared from [4-(3-amino-phenyl)-8-trifluoromethyl-quinolin-3-yl]-phenyl-methanone and 4-(2,4-dioxo-thiazolidin-5-ylidenemethyl)-benzaldehyde according to the procedure of Example 66. MS (ES) m/z 607.8.

reactant | [4-(3-amino-phenyl)-8-trifluoromethyl-quinolin-3-yl]-phenyl-methanone | NC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H15F3N2O
reactant | 4-(2,4-dioxo-thiazolidin-5-ylidenemethyl)-benzaldehyde | O=C1SC(C(N1)=O)=CC1=CC=C(C=O)C=C1 | C11H7NO3S
product | (5Z)-5-{4-[({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]BENZYLIDENE}-1,3-THIAZOLIDINE-2,4-DIONE | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC1=CC=C(\C=C/2\C(NC(S2)=O)=O)C=C1)C(F)(F)F | C34H22F3N3O3S
